US05278148
In an analogous manner to that described in Example 4, (S)-N-[(1S,2S)-1-(cyclohexylmethyl)-2-hydroxy-3-(2-oxo-1-piperidinyl)propyl]-α-[(R)-α-(3,3-dimethyl-2-oxobutyl)hy drocinnamamido]-3-t butoxycarbonylimidazole-4-propionamide was treated with potassium carbonate in methanol, whereby there was obtained (S)-N-[(1S,2S)-1-(cyclohexylmethyl)-2-hydroxy-3-(2-oxopiperidino)propyl]-α-[(R)-α-(3,3-dimethyl-2-oxobutyl)hydrocinnamamido]imidazole-4propionamide as an amorphous solid, MS: 636 (M+H)+.

reactant | (S)-N-[(1S,2S)-1-(cyclohexylmethyl)-2-hydroxy-3-(2-oxo-1-piperidinyl)propyl]-α-[(R)-α-(3,3-dimethyl-2-oxobutyl)hy drocinnamamido]-3-t butoxycarbonylimidazole-4-propionamide | C1(CCCCC1)C[C@@H]([C@H](CN1C(CCCC1)=O)O)NC([C@H](CC=1N(C=NC1)C(=O)OC(C)(C)C)NC([C@H](CC1=CC=CC=C1)CC(C(C)(C)C)=O)=O)=O | C41H61N5O7
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | CO | CH4O
product | (S)-N-[(1S,2S)-1-(cyclohexylmethyl)-2-hydroxy-3-(2-oxopiperidino)propyl]-α-[(R)-α-(3,3-dimethyl-2-oxobutyl)hydrocinnamamido]imidazole-4propionamide | C1(CCCCC1)C[C@@H]([C@H](CN1C(CCCC1)=O)O)NC([C@H](CC=1N=CNC1)NC([C@H](CC1=CC=CC=C1)CC(C(C)(C)C)=O)=O)=O | C36H53N5O5
